US07897773B2
2.76 g of tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate in 13 ml of dioxane are placed in a 100 ml round-bottomed flask. 12.8 ml of a 4N solution of hydrochloric acid in dioxane are then carefully added. The reaction mixture is stirred for 3 h. The dioxane is evaporated off, to give 2.27 g of 8-azabicyclo[3.2.1]oct-2-ene-3-yl trifluoromethylsulfonate hydrochloride.

reactant | tert-butyl 3-{[(trifluoromethyl)sulfonyl]oxy}-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | 2.76 g | FC(S(=O)(=O)OC1=CC2CCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO5S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
product | 8-azabicyclo[3.2.1]oct-2-ene-3-yl trifluoromethylsulfonate hydrochloride | 2.27 g | Cl.FC(F)(F)S(=O)(=O)OC1=CC2CCC(C1)N2 | InChI=1S/C8H10F3NO3S.ClH/c9-8(10,11)16(13,14)15-7-3-5-1-2-6(4-7)12-5;/h3,5-6,12H,1-2,4H2;1H
